US05264432
8-Chloro-5-(4-diethylamino-butyryl)-5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one
The 5-(5-bromobutyryl)-8-chloro-5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one, used as starting material, is synthesized similarly to the starting material described in Example 1 from 8-chloro-5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one and 4-bromobutyryl chloride. The yield is 83.1% of the theoretical yield and the melting point is 176°-177° C.

reactant | 8-chloro-5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one | ClC=1C=CC2=C(NC(C3=C(N2)C=CC=C3)=O)C1 | C13H9ClN2O
reactant | 4-bromobutyryl chloride | BrCCCC(=O)Cl | C4H6BrClO
product | 8-Chloro-5-(4-diethylamino-butyryl)-5,10-dihydro-11H-dibenzo(b,e)(1,4)-diazepine-11-one | ClC=1C=CC2=C(NC(C3=C(N2C(CCCN(CC)CC)=O)C=CC=C3)=O)C1 | C21H24ClN3O2
